US05489593
1-(3-Nitro-2-pyridinyl)-1,4-diazepine
Homopiperazine (15.58 g) is dissolved in 100 ml of acetonitrile. Potassium carbonate (8.7 g) is added and then the 2-chloro-3-nitropyridine (5.0 g) dissolved in 25 ml of acetonitrile is added dropwise. The reaction is stirred at 20°-25° 4 hr, then diluted with methylene chloride, washed with water (2 ×), saline, dried over anhydrous sodium sulfate and concentrated under reduced pressure to give the title compound, NMR (300 MHz, CDCl3) 8.30, 8.08, 6.66, 3.60, 3.41, 3.10, 2.89 and 1.93 δ.

reactant | Homopiperazine | 15.58 g | N1CCNCCC1 | C5H12N2
reactant | Potassium carbonate | 8.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-3-nitropyridine | 5.0 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-(3-Nitro-2-pyridinyl)-1,4-diazepine | [N+](=O)([O-])C=1C(=NC=CC1)N1C=CN=CC=C1 | C10H8N4O2
